US05965589
According to the same manner as that described in Reference Example 10, ethyl 4-isopropoxycinnamate was reduced with diisobutyl aluminum hydride to give (E)-3-(4-isopropoxyphenyl)-2-propenol as an oil. This oil was purified by column chromatography on silica gel (eluent: ethyl acetate-hexane (1:4, v/v)) (yield: 83%).

reactant | ethyl 4-isopropoxycinnamate | C(C)(C)OC1=CC=C(C=CC(=O)OCC)C=C1 | C14H18O3
reactant | diisobutyl aluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
product | (E)-3-(4-isopropoxyphenyl)-2-propenol | C(C)(C)OC1=CC=C(C=C1)/C=C/CO | C12H16O2
